US04263308
4-(Di-2-thienyl-methylene)-N-(2-cyclopentyloxy-ethyl)-piperidine
6 grams (0.0175 mole) of 4-(di-2-thienyl-methylene)-N-(2-hydroxyethyl)-piperidine hydrochloride were added in portions to a suspension of 1.3 grams of NaH (80%) in 100 ml of dry xylene. The mixture was heated to boiling until the evolution of hydrogen stopped. At the boiling heat there were dropped in 5.3 grams of cyclopentyl bromide dissolved in 10 ml of xylene. After 16 hours reaction time the product was hydrolyzed in the cold with water, the xylene phase separated off, dry and concentrated. The product was purified by chromatography using silica gel for the dry column chromatography employing ethyl acetate as elution agent and the oxalate precipitated from acetone solution. M.P. of the oxalate 193°-195° C.; Yield 32%.

reactant | 4-(di-2-thienyl-methylene)-N-(2-hydroxyethyl)-piperidine hydrochloride | 0.0175 mole, 6 grams | Cl.S1C(=CC=C1)C(=C1CCN(CC1)CCO)C=1SC=CC1
reactant | NaH | 1.3 grams | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | water | O | H2O
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | cyclopentyl bromide | 5.3 grams | C1(CCCC1)Br | C5H9Br
product | 4-(Di-2-thienyl-methylene)-N-(2-cyclopentyloxy-ethyl)-piperidine | Yield 32% | S1C(=CC=C1)C(=C1CCN(CC1)CCOC1CCCC1)C=1SC=CC1 | C21H27NOS2
